US07960563B2
1-(3-Fluoro-4-hydroxyphenyl)-3-methyl-1H-indazol-4-ol (E15)
A mixture of 1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-3-methyl-4-[(phenylmethyl)oxy]-1H-indazole (D31) (0.45 g) and 10% palladium on charcoal (150 mg) in ethyl acetate (30 mL) was hydrogenated at atmospheric pressure for about 18 hrs. The mixture was filtered, concentrated and chromatographed (silica gel, 0-100% ethyl acetate in hexane) to give the title compound as a white solid (0.15 g) (E15).

reactant | 1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-3-methyl-4-[(phenylmethyl)oxy]-1H-indazole | 0.45 g | FC=1C=C(C=CC1OCC1=CC=CC=C1)N1N=C(C2=C(C=CC=C12)OCC1=CC=CC=C1)C | C28H23FN2O2
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3-Fluoro-4-hydroxyphenyl)-3-methyl-1H-indazol-4-ol | 0.15 g | FC=1C=C(C=CC1O)N1N=C(C=2C(=CC=CC12)O)C | C14H11FN2O2
